US08685986B2
N-(4-Bromobenzyl)pyridin-3-ylsulfonamide
Reaction and post-treatment were carried out in the same manner as in Reference Example 2-(d) except for using 3-pyridylsulfonyl chloride (300 mg, 1.69 mmol), and using 4-bromobenzylamine hydrochloride (342 mg, 1.54 mmol) in place of (6-phenylpyridazin-3-ylmethyl)amine hydrochloride to afford the title compound (422 mg) as a white solid. (Yield: 84%)

reactant | 3-pyridylsulfonyl chloride | 1.69 mmol, 300 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | 4-bromobenzylamine hydrochloride | 1.54 mmol, 342 mg | Cl.BrC1=CC=C(CN)C=C1
product | N-(4-Bromobenzyl)pyridin-3-ylsulfonamide | 422 mg, Yield: 84% | BrC1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C12H11BrN2O2S
